US09334245B2
F. (2S,4S)-5-Biphenyl-4-yl-2-hydroxymethyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester (R7=—CH(CH3)OCOO-cyclohexyl)
(2S,4S)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-pentanoic acid (50 mg, 120 μmol, 1.0 eq.), DMA (1 mL), DIPEA (0.13 mL, 0.75 mmol) and 1-chloroethyl cyclohexyl carbonate (52 mg, 250 μmol, 2.0 eq.) were combined. The reaction vessel was capped and microwaved at 80° C. for 2 hours. The mixture was dried under vacuum, dissolved in MeCN (2 mL), and combined with 4 M of HCl in dioxane (500 μL). The resulting mixture was stirred at room temperature for 30 minutes. The precipitate was filtered and discarded, and the filtrate containing the intermediate was concentrated down and submitted to next step. 1,2,3-triazole-4-carboxylic acid (14 mg, 120 μmol, 0.5 eq.) and HATU (48 mg, 120 μmol, 1.0 eq) were dissolved in DMF (1 mL) and the resulting solution was stirred for 5 minutes, followed by the addition of DIPEA (44 μL) and the intermediate from last step. The mixture was stirred for 5 minutes. The reaction was quenched with water and the product dried under vacuum. The product was then purified by preparative HPLC to yield the title compound (4.8 mg, 95% purity). MS m/z [M+H]+ calc'd for C30H36N4O7, 565.26. found 565.4.

reactant | (2S,4S)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-pentanoic acid | 120 μmol, 50 mg, 1.0 eq. | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H29NO5
reactant | DIPEA | 0.75 mmol, 0.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloroethyl cyclohexyl carbonate | 250 μmol, 52 mg, 2.0 eq. | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
reactant | 1,2,3-triazole-4-carboxylic acid | 120 μmol, 14 mg, 0.5 eq. | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | HATU | 120 μmol, 48 mg, 1.0 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 44 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | (2S,4S)-5-Biphenyl-4-yl-2-hydroxymethyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester | 4.8 mg, 95% | C1(CCCCC1)OC(=O)OC(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)CO)=O | C30H36N4O7
